US04291175
2-(7',8'-Bistrimethylsilyloxyoctyl)-4-trimethylsilyloxycyclopent-2-en-1-one
To a stirred, ice-cold solution of 8.2 g. of 8-(4-hydroxycyclopent-2-en-1-on-2-yl)-1,2-octanediol in 100 ml. of pyridine is added 26 ml. of hexamethyldisilazane followed by 13 ml. of chlorotrimethylsilane. The resulting mixture is stirred at room temperature for 4 hours. Solvent and excess reagents are removed by evaporation under vacuum, and the residue is treated with petroleum ether and filtered through celite. The residue obtained after solvent evaporation of the filtrate is subjected to Kugelrohr distillation at 160° C. to provide a colorless liquid.

reactant | 8-(4-hydroxycyclopent-2-en-1-on-2-yl)-1,2-octanediol | OC1C=C(C(C1)=O)CCCCCCC(CO)O | C13H22O4
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(7',8'-Bistrimethylsilyloxyoctyl)-4-trimethylsilyloxycyclopent-2-en-1-one | C[Si](OC(CCCCCCC=1C(CC(C1)O[Si](C)(C)C)=O)CO[Si](C)(C)C)(C)C | C22H46O4Si3
